US08252817B2
3-(Dimethylamino)-2-pyridin-3-yl-acrylic acid ethyl ester
37.4 g (226 mmol) pyridin-3-ylacetic acid ethyl ester are heated in 100 g (679 mmol) dimethylformamide diethyl acetal overnight at 100° C. After cooling, the mixture is concentrated and the residue is pre-purified by means of flash chromatography on silica gel (mobile phase: gradient cyclohexane/ethyl acetate 1:1→ethyl acetate/ethanol 9:1). The product obtained is subjected to fine purification by vacuum distillation (1 mbar, 200° C. bath temperature).

reactant | pyridin-3-ylacetic acid ethyl ester | 226 mmol, 37.4 g | C(C)OC(CC=1C=NC=CC1)=O | C9H11NO2
reactant | dimethylformamide diethyl acetal | 679 mmol, 100 g | C(C)OC(N(C)C)OCC | C7H17NO2
product | 3-(Dimethylamino)-2-pyridin-3-yl-acrylic acid ethyl ester | C(C)OC(C(=CN(C)C)C=1C=NC=CC1)=O | C12H16N2O2
